US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-phenylacetamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and phenyl acetyl chloride in a similar manner as described above to give a white solid (86% yield). 1H-NMR (CDCl3): δ 8.88 (s, 1H), 7.57 (m, 1H), 7.37-7.27 (m, 3H), 7.27-7.20 (m, 3H), 7.15 (d, 1H), 5.74 (d, 1H), 5.08 (m, 1H), 3.61 (s, 2H), 2.62 (m, 2H), 2.13 (m, 1H), 1.81 (m, 2H), 1.67 (m, 1H); MS m/z 383 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | phenyl acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-phenylacetamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(CC1=CC=CC=C1)=O | C20H19BrN2O
